US07495007B2
Preparation of racemic (2′R,3R,4′S)-1′-(aminocarbonyl-methyl)-6-bromo-4′-(3-chlorophenyl)-2′-(1-methylene-propyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
Racemic (2′R,3R,4′S)-1′-(aminocarbonyl-methyl)-6-bromo-4′-(3-chlorophenyl)-2′-(1-methylene-propyl)-2,3-dihydro-2,6′-dioxo-spiro[indole-3,3′-piperidine]-1-methoxyethyl trimethylsilane (350 mg) was dissolved in a solution of trifluoroacetic acid (5 mL) and dichloromethane (5 mL). The reaction mixture was stirred at room temperature for 0.5 h. The reaction mixture was concentrated. The residue was redissolved in a mixture of methanol (3 ml) and DIPEA. The reaction tube was then placed into the cavity of a focused monomode microwave reactor and the contents of the flask were irradiated for 30 min at 120° C. The reaction mixture was concentrated and the residue was concentrated and the residue was purified by Prep-HPLC to obtain 70 mg product.

reactant | Racemic (2′R,3R,4′S)-1′-(aminocarbonyl-methyl)-6-bromo-4′-(3-chlorophenyl)-2′-(1-methylene-propyl)-2,3-dihydro-2,6′-dioxo-spiro[indole-3,3′-piperidine] 1-methoxyethyl trimethylsilane | 350 mg | NC(=O)CN1C(C2(C(CC1=O)C1=CC(=CC=C1)Cl)C(NC1=CC(=CC=C12)Br)=O)C(CC)=C.COC(C)[Si](C)(C)C
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | racemic (2′R,3R,4′S)-1′-(aminocarbonyl-methyl)-6-bromo-4′-(3-chlorophenyl)-2′-(1-methylene-propyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 70 mg | NC(=O)CN1C(C2(C(CC1=O)C1=CC(=CC=C1)Cl)C(NC1=CC(=CC=C12)Br)=O)C(CC)=C | C24H23BrClN3O3
